US07977477B2
A mixture of 2-(4-nitro-1H-pyrazol-3-yl)-1H-benzimidazole (1.34 g, 5.85 mmol) and 10% Pd/C (0.13 g) in DMF (200 ml) was subjected to an atmosphere of hydrogen at room temperature for 36 h. The reaction mixture was filtered through a plug of Celite and reduced in vacuo. The residue was partitioned between EtOAc and water and the organic portion dried (MgSO4), filtered and reduced in vacuo. The residue was azeotroped with toluene (3×150 ml) yielding 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine as a purple solid (0.32 g, 26%). (LC/MS: Rt 0.97, [M+H]+ 199.62).

reactant | 2-(4-nitro-1H-pyrazol-3-yl)-1H-benzimidazole | 5.85 mmol, 1.34 g | [N+](=O)([O-])C=1C(=NNC1)C1=NC2=C(N1)C=CC=C2 | C10H7N5O2
reactant | hydrogen | [H][H] | H2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.13 g | [Pd] | Pd
product | 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.32 g, 26% | N1C(=NC2=C1C=CC=C2)C2=NNC=C2N | C10H9N5
